US04612329
Alpha-isopropyl-alpha-[2-[N-[3-(2-methoxyphenoxy)propyl]-N-methylamino]ethyl]-3,4,5-trimethoxyphenylacetonitrile
A mixture of 0.39 g of alpha-isopropyl-alpha-[2-[N-[3-(2-methoxyphenoxy)propyl]amino]ethyl]-3,4,5-trimethoxyphenylacetonitrile, 1 ml of 37% formalin, and 1 ml of 90% formic acid was refluxed for 1 hour. After cooling, to the mixture were added water and potassium carbonate to make it alkaline. The solution was extracted with chloroform. The extract was washed with water, dried, and evaporated to give 0.23 g of desired compound as a yellow oil.

reactant | alpha-isopropyl-alpha-[2-[N-[3-(2-methoxyphenoxy)propyl]amino]ethyl]-3,4,5-trimethoxyphenylacetonitrile | 0.39 g | C(C)(C)C(C#N)(CCNCCCOC1=C(C=CC=C1)OC)C1=CC(=C(C(=C1)OC)OC)OC | C26H36N2O5
reactant | formalin | 1 ml | C=O | CH2O
reactant | formic acid | 1 ml | C(=O)O | CH2O2
reactant | potassium carbonate | C([O-])([O-])=O.[K+].[K+]
solvent | water | O | H2O
product | Alpha-isopropyl-alpha-[2-[N-[3-(2-methoxyphenoxy)propyl]-N-methylamino]ethyl]-3,4,5-trimethoxyphenylacetonitrile | 0.23 g | C(C)(C)C(C#N)(CCN(C)CCCOC1=C(C=CC=C1)OC)C1=CC(=C(C(=C1)OC)OC)OC | C27H38N2O5
